US08017602B2
To a stirred solution of cycloheptanamine (8.62 g) in methanol (20 mL) was added 2,2-dimethoxyacetaldehyde (11.49 mL) and the mixture stirred at room temperature for 5 h. Palladium on carbon 10% (1 g) was added and the mixture hydrogenated at 5 bar for 16 h. It was filtered and concentrated under vacuum to give N-(2,2-dimethoxyethyl)cycloheptanamine as an oil (15.26 g). 1H NMR (300 MHz, CDCl3) δ 4.47 (t, J=5.6 Hz, 1H), 3.39 (s, 6H), 2.73 (d, J=5.6 Hz, 2H), 2.67-2.55 (m, 1H), 1.90-1.25 (m, 12H).

reactant | cycloheptanamine | 8.62 g | C1(CCCCCC1)N | C7H15N
reactant | 2,2-dimethoxyacetaldehyde | 11.49 mL | COC(C=O)OC | C4H8O3
solvent | methanol | 20 mL | CO | CH4O
catalyst | Palladium on carbon | 1 g | [Pd] | Pd
product | N-(2,2-dimethoxyethyl)cycloheptanamine | 15.26 g | COC(CNC1CCCCCC1)OC | C11H23NO2
